US05620979
To a stirred mixture of 2-amino-5-chloro-3-nitrobenzotrifluoride (250 mg, 1.043 mmol) in ethanol (4 mL) was added SnCl2.2 H2O (1.174 g, 5.217 mmol) in one portion. The mixture was refluxed at 80° C. (oil bath 90° C.) for 1 h. The solution was cooled to room temperature and ice water (20 g) was added. It was adjusted to pH=7 and extracted with ethyl acetate. The extract was dried (Mg2SO4) and evaporated to give 181 mg (83%) of 2,3-diamino-5-chlorobenzotrifluoride as a brown solid. 1H NMR (CDCl3): δ 3.515 (s, 2H); 3.878 (s, 2H); 6.845 (s, 1H); 6.988 (s, 1H).

reactant | 2-amino-5-chloro-3-nitrobenzotrifluoride | 1.043 mmol, 250 mg | NC1=C(C=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C7H4ClF3N2O2
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 5.217 mmol, 1.174 g | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2,3-diamino-5-chlorobenzotrifluoride | 181 mg, 83% | NC1=C(C=C(C=C1N)Cl)C(F)(F)F | C7H6ClF3N2
